US09371321B2
Preparation 14: tert-Butyl (R)-4-(5-((S)-1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-2-methylpiperazine-1-carboxylate
To a 50 mL pear flask were added (R)-tert-butyl 2-methylpiperazine-1-carboxylate (156 mg, 0.777 mmol) and (S)-1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (94 mg, 0.370 mmol) in 1,4-dioxane (0.92 mL). Potassium 2-methylpropan-2-olate (1 M in THF, 0.81 mL, 0.81 mmol) was added, and the mixture was heated to 90° C. for 45 minutes. After cooling for 10 minutes, the red mixture was poured into saturated NaHCO3 and the pH was adjusted to ˜10 by adding K2CO3. The mixture was extracted with EtOAc (3×). The organic layers were combined, dried over MgSO4, filtered, and concentrated in vacuo to give crude product, which was purified by preparative HPLC (basic mode, 30-55% ACN/water gradient). The product-containing fractions were combined, concentrated in vacuo, and then partitioned between saturated NaHCO3 and EtOAc. The organic phase was dried over MgSO4, filtered, and concentrated to give the title compound as a colorless oil (45 mg, 33%). ESI-MS m/z [M+H]+ calc'd for C20H31N5O2, 374. found 374.

reactant | (R)-tert-butyl 2-methylpiperazine-1-carboxylate | 0.777 mmol, 156 mg | C[C@H]1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | (S)-1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 0.370 mmol, 94 mg | BrC=1C=C2C(=NC1[C@H](C)N)C=CN2C | C10H12BrN3
reactant | Potassium 2-methylpropan-2-olate | 0.81 mmol, 1 M, 0.81 mL | CC(C)(C)[O-].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 0.92 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl (R)-4-(5-((S)-1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-2-methylpiperazine-1-carboxylate | 45 mg, 33% | N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2C[C@H](N(CC2)C(=O)OC(C)(C)C)C | C20H31N5O2
